US05045552
2-[{4-(2-Benzyloxyethoxy)-3-methylpyridine-2-yl}methylthio]benzimidazole
A mixture comprising 1.0 g of 2-mercaptobenzimidazole, 2.0 g of 4-(2-benzyloxyethoxy)-2-chloromethyl-3-methylpyridine, 302 mg of sodium hydroxide and 40 ml of ethanol was stirred under heating at 60° C. for 1.5 hours and distilled under a reduced pressure to remove the ethanol. The obtained residue was subjected to silica gel column chromatography. The column was treated with 30 to 60% ethyl acetate in n-hexane to obtain 2.0 g of the title compound as a white crystal.

reactant | 2-mercaptobenzimidazole | 1.0 g | SC=1NC2=C(N1)C=CC=C2 | C7H6N2S
reactant | 4-(2-benzyloxyethoxy)-2-chloromethyl-3-methylpyridine | 2.0 g | C(C1=CC=CC=C1)OCCOC1=C(C(=NC=C1)CCl)C | C16H18ClNO2
reactant | sodium hydroxide | 302 mg | [OH-].[Na+]
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | 2-[{4-(2-Benzyloxyethoxy)-3-methylpyridine-2-yl}methylthio]benzimidazole | 2.0 g | C(C1=CC=CC=C1)OCCOC1=C(C(=NC=C1)CSC=1NC2=C(N1)C=CC=C2)C | C23H23N3O2S
